* c:\fossee2\esim\library\subcircuitlibrary\sc_tlv1701\sc_tlv1701.cir

.include NPN.lib
.include PNP.lib
q1 net-_i2-pad2_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q4 net-_i2-pad2_ net-_q4-pad2_ net-_q4-pad3_ Q2N2222
q2 net-_q12-pad3_ net-_i1-pad2_ net-_i2-pad1_ Q2N2907A
q3 net-_q10-pad3_ net-_i3-pad2_ net-_i2-pad1_ Q2N2907A
q5 net-_i1-pad1_ net-_q1-pad2_ net-_q5-pad3_ Q2N2907A
q8 net-_i1-pad1_ net-_q4-pad2_ net-_q8-pad3_ Q2N2907A
q6 net-_q11-pad3_ net-_i4-pad1_ net-_i5-pad2_ Q2N2222
q7 net-_q7-pad1_ net-_i6-pad1_ net-_i5-pad2_ Q2N2222
q9 net-_q10-pad1_ net-_q11-pad2_ net-_q7-pad1_ Q2N2907A
q11 net-_q11-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2907A
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q12 net-_q11-pad1_ net-_q10-pad2_ net-_q12-pad3_ Q2N2222
q13 net-_i1-pad1_ net-_q11-pad1_ net-_i7-pad1_ Q2N2907A
q14 net-_i2-pad2_ net-_i7-pad1_ net-_i8-pad2_ Q2N2222
q15 net-_q15-pad1_ net-_i8-pad2_ net-_i1-pad1_ Q2N2222
r1  net-_q1-pad3_ net-_i1-pad2_ 10k
r2  net-_q4-pad3_ net-_i3-pad2_ 10k
i2 net-_i2-pad1_ net-_i2-pad2_  dc 55u
i1 net-_i1-pad1_ net-_i1-pad2_  dc 55u
i3 net-_i1-pad1_ net-_i3-pad2_  dc 55u
r3  net-_i4-pad1_ net-_q5-pad3_ 10k
r4  net-_i6-pad1_ net-_q8-pad3_ 10k
i5 net-_i1-pad1_ net-_i5-pad2_  dc 55u
r5  net-_q10-pad3_ net-_i1-pad1_ 10k
r8  net-_i1-pad1_ net-_q12-pad3_ 10k
i8 net-_i1-pad1_ net-_i8-pad2_  dc 55u
i4 net-_i4-pad1_ net-_i2-pad2_  dc 55u
i6 net-_i6-pad1_ net-_i2-pad2_  dc 55u
r6  net-_q7-pad1_ net-_i2-pad2_ 10k
r7  net-_i2-pad2_ net-_q11-pad3_ 10k
i7 net-_i7-pad1_ net-_i2-pad2_  dc 55u
* u1  net-_q1-pad2_ net-_i1-pad1_ net-_q4-pad2_ net-_q15-pad1_ net-_i2-pad2_ port
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
