.title kicad schematic

.include TL783.sub
v1 vin gnd 100
r2 gnd net-_x1-pad3_ 5.6k
x1 vin vout net-_x1-pad3_ TL783
r1 net-_x1-pad3_ vout 82
.tran 10e-06 10e-03 0e-00

* Control Statements
.control
run

* X-axis (Time axis) ko Logarithmic scale par set karne ke liye
set xlog

* Dono signals ko ek hi combine window me plot karne ke liye
plot v(vin) v(vout)


.endc
.end
