* C:\Users\Chaithu\FOSSEE\eSim\library\SubcircuitLibrary\ixdd414\ixdd414.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 6/3/2025 2:42:19 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M1  Net-_D1-Pad2_ Net-_M1-Pad2_ Net-_M1-Pad3_ Net-_D1-Pad2_ mosfet_p		
M2  Net-_M1-Pad3_ Net-_M17-Pad1_ Net-_D2-Pad1_ Net-_D2-Pad1_ mosfet_n		
U1  Net-_D1-Pad2_ Net-_D1-Pad1_ Net-_D3-Pad1_ Net-_D2-Pad1_ Net-_M1-Pad3_ PORT		
D1  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D2  Net-_D2-Pad1_ Net-_D1-Pad1_ eSim_Diode		
M3  Net-_M10-Pad2_ Net-_D1-Pad1_ Net-_D2-Pad1_ Net-_D2-Pad1_ mosfet_n		
M4  Net-_D1-Pad2_ Net-_D1-Pad1_ Net-_M10-Pad2_ Net-_D1-Pad2_ mosfet_p		
R1  Net-_D1-Pad2_ Net-_D3-Pad1_ 200k		
D4  Net-_D2-Pad1_ Net-_D3-Pad1_ eSim_Diode		
D3  Net-_D3-Pad1_ Net-_D1-Pad2_ eSim_Diode		
M6  Net-_D1-Pad2_ Net-_D3-Pad1_ Net-_M5-Pad1_ Net-_D1-Pad2_ mosfet_p		
M5  Net-_M5-Pad1_ Net-_D3-Pad1_ Net-_D2-Pad1_ Net-_D2-Pad1_ mosfet_n		
M8  Net-_D1-Pad2_ Net-_M5-Pad1_ Net-_M8-Pad3_ Net-_D1-Pad2_ mosfet_p		
M9  Net-_M8-Pad3_ Net-_M10-Pad2_ Net-_M10-Pad1_ Net-_D1-Pad2_ mosfet_p		
M7  Net-_M10-Pad1_ Net-_M5-Pad1_ Net-_D2-Pad1_ Net-_D2-Pad1_ mosfet_n		
M10  Net-_M10-Pad1_ Net-_M10-Pad2_ Net-_D2-Pad1_ Net-_D2-Pad1_ mosfet_n		
M12  Net-_D1-Pad2_ Net-_M10-Pad1_ Net-_M1-Pad2_ Net-_D1-Pad2_ mosfet_p		
M11  Net-_M1-Pad2_ Net-_M10-Pad1_ Net-_D2-Pad1_ Net-_D2-Pad1_ mosfet_n		
M13  Net-_D1-Pad2_ Net-_M10-Pad2_ Net-_M13-Pad3_ Net-_D1-Pad2_ mosfet_p		
M16  Net-_D1-Pad2_ Net-_D3-Pad1_ Net-_M13-Pad3_ Net-_D1-Pad2_ mosfet_p		
M18  Net-_D1-Pad2_ Net-_M13-Pad3_ Net-_M17-Pad1_ Net-_D1-Pad2_ mosfet_p		
M15  Net-_M14-Pad3_ Net-_M10-Pad2_ Net-_D2-Pad1_ Net-_D2-Pad1_ mosfet_n		
M14  Net-_M13-Pad3_ Net-_D3-Pad1_ Net-_M14-Pad3_ Net-_D2-Pad1_ mosfet_n		
M17  Net-_M17-Pad1_ Net-_M13-Pad3_ Net-_D2-Pad1_ Net-_D2-Pad1_ mosfet_n		

.end
