.title kicad schematic

r2 net-_r2-pad1_ net-_e1-pad1_ 50
e1 net-_e1-pad1_ gnd net-_e1-pad3_ gnd 1
* u1 net-_e1-pad3_ net-_r2-pad1_ net-_r6-pad1_ net-_r3-pad2_ net-_r5-pad2_ port
r1 gnd net-_e1-pad3_ 1meg
r5 gnd net-_r5-pad2_ 1g
r3 gnd net-_r3-pad2_ 1g
b1 net-_b1-pad1_ gnd i=(v(in_plus)-v(in_minus))/50
e2 net-_e2-pad1_ gnd net-_b1-pad1_ gnd 1
r6 net-_r6-pad1_ net-_e2-pad1_ 50
r4 gnd net-_b1-pad1_ 1k
c1 net-_b1-pad1_ gnd 0.09p
.tran 0.1e-09 100e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
